US09340546B2
Pd on C, wet, Degussa (70 mg, 0.06578 mmol) was added to a stirred solution of tert-butyl N-[5-fluoro-4-[1-(oxetan-3-yl)-3,6-dihydro-2H-pyridin-4-yl]-3-pyridyl]carbamate (180 mg, 0.5152 mmol) in EtOH (5 mL)/EtOAc (5 mL). The reaction was placed under an atmosphere of hydrogen and stirred at ambient temperature for 46 hours. The catalyst was removed by filtration through a pad of celite and the filtrate concentrated in vacuo to give tert-butyl (5-fluoro-4-(1-(oxetan-3-yl)piperidin-4-yl)pyridin-3-yl)carbamate as an off-white solid (175 mg, 97% Yield). MS (ES+) 352.2.

reactant | tert-butyl N-[5-fluoro-4-[1-(oxetan-3-yl)-3,6-dihydro-2H-pyridin-4-yl]-3-pyridyl]carbamate | 0.5152 mmol, 180 mg | FC=1C(=C(C=NC1)NC(OC(C)(C)C)=O)C=1CCN(CC1)C1COC1 | C18H24FN3O3
reactant | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
solvent | EtOH | 5 mL | CCO | C2H6O
catalyst | Pd | [Pd] | Pd
product | tert-butyl (5-fluoro-4-(1-(oxetan-3-yl)piperidin-4-yl)pyridin-3-yl)carbamate | 175 mg, 97% Yield | FC=1C(=C(C=NC1)NC(OC(C)(C)C)=O)C1CCN(CC1)C1COC1 | C18H26FN3O3
